US08193378B2
To a solution of DMF (2 mL) in DCM (7.5 mL) was added dropwise POCl3 (1.39 mL) at 0° C., followed by stirring at room temperature for 30 minutes. Subsequently, to the reaction liquid was added dropwise a solution of 7-{[tert-butyl(diphenyl)silyl]oxy}-2,3-dihydro-4H-chromen-4-one (2.00 g) in DCM (11 mL), followed by stirring at room temperature for 1 hour and at 50° C. for 3 hours. To the reaction liquid was added water, followed by extraction with EtOAc twice. The organic layer was combined, washed with water and brine, and dried over MgSO4, and the liquid was concentrated. The residue was purified by silica gel column chromatography (automatic purification device, hexane:EtOAc=100:0 to 80:20) to obtain 4-chloro-7-hydroxy-2H-chromene-3-carbaldehyde (720 mg).

reactant | DMF | 2 mL | CN(C)C=O | C3H7NO
reactant | POCl3 | 1.39 mL | O=P(Cl)(Cl)Cl | Cl3OP
reactant | 7-{[tert-butyl(diphenyl)silyl]oxy}-2,3-dihydro-4H-chromen-4-one | 2.00 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC1=CC=C2C(CCOC2=C1)=O | C25H26O3Si
reactant | water | O | H2O
solvent | DCM | 7.5 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 11 mL | C(Cl)Cl | CH2Cl2
product | 4-chloro-7-hydroxy-2H-chromene-3-carbaldehyde | 720 mg | ClC1=C(COC2=CC(=CC=C12)O)C=O | C10H7ClO3
